US07935721B2
Synthesis of 4′-[(6-methoxypyridin-3-yl)amino]-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
To an oven-dried 2-neck 25 mL round bottom flask equipped with a condenser was charged with 4′-bromo-1′-pentylspiro-(6,7-dihydrofuro-[2,3-f][1,3]benzodioxole-7,3′-indole)-2′-(1′H)-one (50.5 mg, 0.12 mmol), 5-amino-2-methoxypyridine (22.3 mg, 0.18 mmol), Pd2(dba)3 (10 mole %), BINAP (10 mole %) and sodium methoxide (12.9 mg, 0.24 mmol). The flask was flushed with nitrogen for 5 min followed by the addition of degassed toluene (5.00 mL). The reaction mixture was heated at reflux for 16 h. After cooling to ambient temperature, the reaction mixture was diluted with ethyl acetate (20.0 mL) and washed with saturated ammonium chloride (10.0 mL), brine (10.0 mL), dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness. The brown residue was subjected to column chromatography eluting with ethyl acetate-hexane (20% to 50%) to yield the title compound (30.0 mg) in 54% yield: MS (ES+), m/z 474.3 (M+1).

reactant | 4′-bromo-1′-pentylspiro-(6,7-dihydrofuro-[2,3-f][1,3]benzodioxole-7,3′-indole)-2′-(1′H)-one | 0.12 mmol, 50.5 mg | BrC1=C2C3(C(N(C2=CC=C1)CCCCC)=O)COC=1C3=CC3=C(OCO3)C1 | C21H20BrNO4
reactant | 5-amino-2-methoxypyridine | 0.18 mmol, 22.3 mg | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | BINAP | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium methoxide | 0.24 mmol, 12.9 mg | C[O-].[Na+]
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4′-[(6-methoxypyridin-3-yl)amino]-1′-pentylspiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 30.0 mg, 54% yield | COC1=CC=C(C=N1)NC1=C2C3(C(N(C2=CC=C1)CCCCC)=O)COC=1C3=CC3=C(OCO3)C1 | C27H27N3O5
